US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-(3-hydroxy-3-methylbutan-2-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (300 mg, 0.84 mmol), prepared as described in Example 1, in 0.6 mL of DMF was added 2,3-epoxy-2-methylbutane (4.8 mg, 0.056 mmol), followed by K2CO3 (15.5 mg, 0.112 mmol). The mixture was heated at 85° C. for 16 h. After this time, an additional 10 mg of K2CO3 and 2,3-epoxy-2-methylbutane (4.8 mg, 0.056 mmol) were added. The reaction was allowed to continue stirring at 85° C. for an additional 48 h. The reaction was cooled to RT and filtered. The collected solution was concentrated under reduced pressure. The residue was purified by reverse phase HPLC to give the title compound, 7,8-bis(4-chlorophenyl)-2-(3-hydroxy-3-methylbutan-2-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (5 mg, 20% yield) as a yellow oil. MS [M+H]+: found 443; 1H NMR (CDCl3, 400 MHz) δ 8.25 (s, 1H), 7.39-7.27 (m, 6H), 7.14 (dd, 2H), 4.55 (q, 1H), 1.52 (d, 3H), 1.34 (s, 1H), 1.23 (s, 1H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.84 mmol, 300 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 2,3-epoxy-2-methylbutane | 0.056 mmol, 4.8 mg | O1C(C)(C1C)C | C5H10O
reactant | K2CO3 | 0.112 mmol, 15.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 10 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-epoxy-2-methylbutane | 0.056 mmol, 4.8 mg | O1C(C)(C1C)C | C5H10O
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 7,8-bis(4-chlorophenyl)-2-(3-hydroxy-3-methylbutan-2-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 5 mg, 20% yield | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C(C)C(C)(C)O)=O)C2=CC=C(C=C2)Cl | C22H20Cl2N4O2
